US07956083B2
6-fluoro-1-(4-hydroxyphenyl)-1H-indol-4-ol (E10)
A mixture of 6-fluoro-1-{4-[(phenylmethyl)oxy]phenyl}-1H-indol-4-ol (D20) (75 mg) and palladium on charcoal (75 mg) in ethanol (3 mL) was stirred under hydrogen at room temperature for 3 hours. The mixture was filtered and the filtrate was evaporated and chromatographed on silica gel (0-50% ethyl acetate in hexane). The product containing fractions were concentrated and then re-evaporated from ether (3×) to give the title compound (E10) as a white solid, (15 mg).

reactant | 6-fluoro-1-{4-[(phenylmethyl)oxy]phenyl}-1H-indol-4-ol | 75 mg | FC=1C=C(C=2C=CN(C2C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)O | C21H16FNO2
catalyst | palladium on charcoal | 75 mg | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 6-fluoro-1-(4-hydroxyphenyl)-1H-indol-4-ol | FC=1C=C(C=2C=CN(C2C1)C1=CC=C(C=C1)O)O | C14H10FNO2
